US04176184
(a) 7,7-Dimethyl-2-cyclohexyl-5-(3-chloro-propyl)-5H,7H-imidazo-[4,5-h]isoquinoline-4,6-dione
Prepared analogous to Example 26a from 3.1 gm of 7,7-dimethyl-2-cyclohexyl-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione and 1.9 gm of 1-bromo-3-chloro-propane. The crude product was directly further processed.

reactant | 7,7-dimethyl-2-cyclohexyl-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione | 3.1 gm | CC1(N=CC2=C3C(C(CC2C1=O)=O)=NC(=N3)C3CCCCC3)C | C18H21N3O2
reactant | 1-bromo-3-chloro-propane | 1.9 gm | BrCCCCl | C3H6BrCl
product | 7,7-Dimethyl-2-cyclohexyl-5-(3-chloro-propyl)-5H,7H-imidazo-[4,5-h]isoquinoline-4,6-dione | CC1(N=CC2=C3C(C(C(C2C1=O)CCCCl)=O)=NC(=N3)C3CCCCC3)C | C21H26ClN3O2
